### PR TITLE
feat(ErdosProblems): 261

### LINKED ISSUE #458: Erdős Problem 261
### What is the conjecture
    
https://www.erdosproblems.com/261

  Are there infinitely many $n$ such that there exists some $t\geq 2$ and $a_1,\ldots,a_t\geq 1$ such that 
$\frac{n}{2^n}=\sum_{1\leq k\leq t}\frac{a_k}{2^{a_k}}?$
Is this true for all $n$? Is there a rational $x$ such that

$$x = \sum_{k=1}^\infty \frac{a_k}{2^{a_k}}$$
has at least $2^{\aleph_0}$ solutions?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #458

### CODE REVIEW

File: FormalConjectures/ErdosProblems/261.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+ - [TUZ20] Tengely, Szabolcs and Ulas, Maciej and Zygadlo, Jakub, On a Diophantine equation of
+    Erdős and Graham. J. Number Theory (2020), 445--459.
+-/
+
+open scoped Cardinal
+
+namespace Erdos261
+
+/-- An natural number `n` is said to have property `Erdos261_prop` if there exists `t ≥ 1` and
+distinct integers `a₀, a₁, ..., aₜ ≥ 1` such that `n / 2 ^ n = ∑ k, aₖ / 2 ^ aₖ`. -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]: Use LaTeX format for the docstrings. An dont write the "Erdos261_prop" in the docstring. (not just this one)

File: FormalConjectures/ErdosProblems/261.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+def Erdos261_prop (n : ℕ) : Prop := ∃ᵉ (t ≥ 1) (a : Fin t → ℕ), a.Injective ∧
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
def Erdos261_prop (n : ℕ) : Prop := ∃ᵉ (t ≥ 2) (a : Fin t → ℕ), a.Injective ∧
```
Else its trivial

File: FormalConjectures/ErdosProblems/261.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+  (1 ≤ a) ∧ n / (2 ^ n : ℚ) = ∑ k, (a k) / (2 ^ (a k) : ℚ)
+
+/-- Borwein and Loring used the following example in [BoLO90] to show that there are infinitely
+many natural numbers `n` that satisfy `Erdos261_prop`. -/
+@[category high_school, AMS 11]
+theorem erdos_261.example (m : ℕ) :
+    letI n := 2 ^ (m + 1) - m - 2
+    n / (2 ^ n : ℚ) = ∑ k ∈ Finset.Ioc n (n + m), k / (2 ^ k : ℚ) := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean:57]: consider proving this in Lean? Shouldnt be too bad

File: FormalConjectures/ErdosProblems/261.lean [hunk 4]
```diff
@@ -0,0 +1,78 @@
...
+
+/-- #TODO: use `erdos_261.example` to prove the following theorem. -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
/-- As a corollary, there exists infinitely many numbers with the property.
TODO : Prove this using erdos_261.example  -/
```

File: FormalConjectures/ErdosProblems/261.lean (hunk 3 above)
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]: Rephrase this using Erdos261_prop

File: FormalConjectures/ErdosProblems/261.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+@[category research solved, AMS 11]
+theorem erdos_261.infinite : {n : ℕ | Erdos261_prop n}.Infinite := by
+  sorry
+
+/-- It is verified in [TUZ20] that all `n ≤ 10000` satisfy `Erdos261_prop`. -/
+@[category research solved, AMS 11]
+theorem erdos_261.le_10000 {n : ℕ} (hn : n ≤ 10000) : Erdos261_prop n := by
+  sorry
+
+/-- Does all `n` satisfy `Erdos261_prop`? -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
/-- Do all `n` satisfy `Erdos261_prop`? -/
```

File: FormalConjectures/ErdosProblems/261.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+    letI n := 2 ^ (m + 1) - m - 2
+    n / (2 ^ n : ℚ) = ∑ k ∈ Finset.Ioc n (n + m), k / (2 ^ k : ℚ) := by
+  sorry
+
+/-- #TODO: use `erdos_261.example` to prove the following theorem. -/
+@[category research solved, AMS 11]
+theorem erdos_261.infinite : {n : ℕ | Erdos261_prop n}.Infinite := by
+  sorry
+
+/-- It is verified in [TUZ20] that all `n ≤ 10000` satisfy `Erdos261_prop`. -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]: Again dont use Erdos261_prop in the docstring.

File: FormalConjectures/ErdosProblems/261.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+@[category research open, AMS 11]
+theorem erdos_261.all : answer(sorry) ↔ ∀ n, Erdos261_prop n := by
+  sorry
+
+/-- Does there exists a rational `x` such that `x = ∑' k, (a k) / 2 ^ (a k)` has at least `2 ^ ℵ₀`
+many solutions? -/
+@[category research open, AMS 11]
+theorem erdos_261.rational : answer(sorry) ↔ ∃ x : ℚ,
+    #{a : ℕ → ℕ | Summable (fun k => (a k) / (2 ^ (a k) : ℚ)) ∧
+    x = ∑' k, (a k) / (2 ^ (a k) : ℚ)} ≥ 2 ^ ℵ₀ := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
theorem erdos_261.rational : answer(sorry) ↔ ∃ x : ℚ,
    𝔠 \leq #{a : ℕ → ℕ | Summable (fun k => (a k) / (2 ^ (a k) : ℚ)) ∧
    x = ∑' k, (a k) / (2 ^ (a k) : ℚ)} := by
```

File: FormalConjectures/ErdosProblems/261.lean [hunk 8]
```diff
@@ -0,0 +1,78 @@
...
+
+/-- Does all `n` satisfy `Erdos261_prop`? -/
+@[category research open, AMS 11]
+theorem erdos_261.all : answer(sorry) ↔ ∀ n, Erdos261_prop n := by
+  sorry
+
+/-- Does there exists a rational `x` such that `x = ∑' k, (a k) / 2 ^ (a k)` has at least `2 ^ ℵ₀`
+many solutions? -/
+@[category research open, AMS 11]
+theorem erdos_261.rational : answer(sorry) ↔ ∃ x : ℚ,
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
theorem erdos_261.rational_big : answer(sorry) ↔ ∃ x : ℚ,
```
Or something like that

File: FormalConjectures/ErdosProblems/261.lean [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+    #{a : ℕ → ℕ | Summable (fun k => (a k) / (2 ^ (a k) : ℚ)) ∧
+    x = ∑' k, (a k) / (2 ^ (a k) : ℚ)} ≥ 2 ^ ℵ₀ := by
+  sorry
+
+/-- Does there exists a rational `x` such that `x = ∑' k, (a k) / 2 ^ (a k)` has at least `2`
+solutions? -/
+@[category research open, AMS 11]
+theorem erdos_261.rational.weak : answer(sorry) ↔ ∃ x : ℚ,
+    #{a : ℕ → ℕ | Summable (fun k => (a k) / (2 ^ (a k) : ℚ)) ∧
+    x = ∑' k, (a k) / (2 ^ (a k) : ℚ)} ≥ 2 := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/261.lean]:
```suggestion
theorem erdos_261.rational.weak : answer(sorry) ↔ ∃ x : ℚ,
    2 \leq #{a : ℕ → ℕ | Summable (fun k => (a k) / (2 ^ (a k) : ℚ)) ∧
    x = ∑' k, (a k) / (2 ^ (a k) : ℚ)} := by
```

File: FormalConjectures/ErdosProblems/261.lean (hunk 4 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/261.lean]: Also might as well prove that I think

File: FormalConjectures/ErdosProblems/261.lean (hunk 3 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/261.lean:57]: Yes it shouldn't be too hard but I don't have time for it now, which is why I am leaving it as a TODO. I'll consider including a proof in another PR.

File: FormalConjectures/ErdosProblems/261.lean (hunk 1 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/261.lean]: I used backticks instead of latex in many PRs in the past for this repo. I write `Erdos261_prop` in the docstring because of comments made by another reviewer in this PR: #1888

Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/261.lean]: I suppose writing ```Erdos261_prop``` is fine then.
However we always try to use latex for docstrings recently (compare with some recently merged prs)

**Comment by Paul-Lez** [comment]
@CoolRmal Is this ready for another round of reviews? Or are you still addressing things? (note that once it's ready there's a command you can use to get rid of the `awaiting-author` tag)

File: FormalConjectures/ErdosProblems/261.lean [hunk 10]
```diff
@@ -0,0 +1,79 @@
...
+
+/-- A natural number $n$ is said to have property `Erdos261_prop` if there exists $t \ge 2$ and
+distinct integers $a_0, a_1, \ldots, a_t \ge 1$ such that
+$n / 2^n = \sum_k a_k / 2^{a_k}$. -/
+def Erdos261_prop (n : ℕ) : Prop := ∃ᵉ (t ≥ 2) (a : Fin t → ℕ), a.Injective ∧
+  (1 ≤ a) ∧ n / (2 ^ n : ℚ) = ∑ k, (a k) / (2 ^ (a k) : ℚ)
+
+/-- Borwein and Loring used the following example in [BoLO90] to show that there are infinitely
+many natural numbers $n$ that satisfy `Erdos261_prop`. -/
+@[category high_school, AMS 11]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/261.lean:42]:
```suggestion
@[category textbook, AMS 11]
```
we changed category names in the meantime

File: FormalConjectures/ErdosProblems/261.lean [hunk 11]
```diff
@@ -0,0 +1,79 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/261.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/261.lean [hunk 12]
```diff
@@ -0,0 +1,79 @@
...
+-/
+
+open scoped Cardinal
+
+namespace Erdos261
+
+/-- A natural number $n$ is said to have property `Erdos261_prop` if there exists $t \ge 2$ and
+distinct integers $a_0, a_1, \ldots, a_t \ge 1$ such that
+$n / 2^n = \sum_k a_k / 2^{a_k}$. -/
+def Erdos261_prop (n : ℕ) : Prop := ∃ᵉ (t ≥ 2) (a : Fin t → ℕ), a.Injective ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/261.lean:37]:
```suggestion
def Erdos261Prop (n : ℕ) : Prop := ∃ᵉ (t ≥ 2) (a : Fin t → ℕ), a.Injective ∧
```
and fixes usages of that declaration accordingly

File: FormalConjectures/ErdosProblems/261.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/261.lean:1]: The erdosproblems.com problem asks about $x = \sum_{k=1}^\infty \frac{a_k}{2^{a_k}}$. The formalization counts all functions `a : ℕ → ℕ` (including non-injective ones, and ones with $a_k = 0$). The original problem likely intends distinct $a_k \geq 1$ (as in the finite case), but since the problem is asking about the number of representations being $\geq 2^{\aleph_0}$, including more solutions (non-distinct, etc.) only makes the existential easier to satisfy, not harder. The formalization is therefore a weaker (more generous) version of the question.

Consider adding `a.Injective ∧ (1 ≤ a)` to the `rational` and `rational.weak` variants for consistency with `Erdos261Prop`, or add a note in the docstring that the formalization allows non-injective sequences.

-- not entirely sure about this, perhaps also good to check on erdosproblems.com

**Review by mo271 — APPROVED** [review]
Thanks, looks good mathematically, just one question about injectivity and a few nits

**Review by Paul-Lez — APPROVED** [review]
